US07109229B2
(a) Methyl 2-(5-Fluoro-1H-indol-3-yl)oxoacetate
A 2.0 M solution of oxalyl chloride in methylene chloride (4.50 mL, 9.0 mmol) was added to a solution of 5-fluoroindole (1.14 g, 8.4 mmol) in ether (19 mL) dropwise over 10 min at 4° C. under N2. The ice bath was removed and the resulting mixture was stirred for 2 h. A 25% sodium methoxide in methanol solution (4.3 mL, 18.8 mmol) was added at −78° C. over 5 min. The mixture was allowed to warm up to room temperature and stirred for 1 h. The reaction was quenched with water (50 mL), filtered and rinsed with cold ether to afford the title compound (1.34, 72%) as a yellow solid. 1H NMR (DMSO-d6) δ 12.51 (bs, 1H), 8.56 (s, 1H), 7.86 (m, 1H), 7.60 (m, 1H), 7.15 (m, 1H), 3.90 (s, 3H).

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylene chloride | 9.0 mmol, 4.50 mL | C(Cl)Cl | CH2Cl2
reactant | 5-fluoroindole | 8.4 mmol, 1.14 g | FC=1C=C2C=CNC2=CC1 | C8H6FN
reactant | sodium methoxide | C[O-].[Na+]
reactant | methanol | 18.8 mmol, 4.3 mL | CO | CH4O
solvent | ether | 19 mL | CCOCC | C4H10O
product | Methyl 2-(5-Fluoro-1H-indol-3-yl)oxoacetate | 72% | FC=1C=C2C(=CNC2=CC1)C(C(=O)OC)=O | C11H8FNO3
